US05767299
(e) 2-[1-(3,5-Diacetylamino-2,4,6-triiodobenzoyloxy)-ethoxycarbonyl]-1,3-dipalmitoylglycerol
2-(1-Chloroethoxycarbonyl)-1,3-dipalmitoylglycerol (1.00 g, 1.43 mmol) and sodium iodide were dissolved in a solution of potassium 3,5-diacetylamino-2,4,6-triiodobenzoate (0.88 g, 1.35 mmol) in DMF (10 ml). After 5 days stirring at 50° C. 18-Crown-6 (40 mg, 0.15 mmol) was added to the mixture which was then stirred at 50° C. for a further 3 days. The reaction mixture was diluted with dichloromethane, washed 4 times with a saturated sodium bicarbonate solution, twice with water, dried over sodium sulphate and evaporated. The residue was purified by column chromatography on silica gel using heptane-ethyl acetate (1:2) as eluent.

reactant | 2-(1-Chloroethoxycarbonyl)-1,3-dipalmitoylglycerol | 1.43 mmol, 1.00 g | ClC(C)OC(=O)OC(COC(CCCCCCCCCCCCCCC)=O)COC(CCCCCCCCCCCCCCC)=O | C38H71ClO7
reactant | sodium iodide | [I-].[Na+]
reactant | potassium 3,5-diacetylamino-2,4,6-triiodobenzoate | 1.35 mmol, 0.88 g | C(C)(=O)NC=1C(=C(C(=O)[O-])C(=C(C1I)NC(C)=O)I)I.[K+]
reactant | 18-Crown-6 | 0.15 mmol, 40 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[1-(3,5-Diacetylamino-2,4,6-triiodobenzoyloxy)-ethoxycarbonyl]-1,3-dipalmitoylglycerol | C(C)(=O)NC=1C(=C(C(=O)OC(C)OC(=O)OC(COC(CCCCCCCCCCCCCCC)=O)COC(CCCCCCCCCCCCCCC)=O)C(=C(C1I)NC(C)=O)I)I | C49H79I3N2O11
